US05354866
1-(t-Butyldimethylsilyloxy)-2-(p-nitrophenoxycarbonyloxy)ethane
A 604 mg (3.00 mmol) sample of p-nitrophenoxycarbonylchloride in 3 mL of methylene chloride was added to a solution of 0.528 g (3.00 mmol) of 2-(t-butyldimethylsilyloxy)ethanol and 0.330 mL of 4-methylmorpholine in 2 mL of methylene chloride cooled in an ice bath. The solution was stirred for 2 hours. The mixture was diluted with methylene chloride, which was washed with water, dried and concentrated. The crude product was chromatographed on silica gel, eluting with 10% ethyl acetate in hexane. The solvent was removed and the product dried to afford 0.453 g of the title compound, which was taken directly to the next step.

reactant | p-nitrophenoxycarbonylchloride | [N+](=O)([O-])C1=CC=C(OC(=O)Cl)C=C1 | C7H4ClNO4
reactant | 2-(t-butyldimethylsilyloxy)ethanol | 3.00 mmol, 0.528 g | [Si](C)(C)(C(C)(C)C)OCCO | C8H20O2Si
reactant | 4-methylmorpholine | 0.330 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(t-Butyldimethylsilyloxy)-2-(p-nitrophenoxycarbonyloxy)ethane | 0.453 g | [Si](C)(C)(C(C)(C)C)OCCOC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H23NO6Si
